US04521413
A mixture of 3-aminopyridine (2.82 g) and sodium hydroxymethanesulfonate monohydrate (9.12 g) in water (40 ml) was stirred for 1.5 hours at 80° C. The solution was concentrated to yield a precipitate and stood for several hours. The resulting precipitate was filtered, washed with ethanol and dried to give sodium 3-pyridylaminomethanesulfonate (3.71 g), mp 211° to 220° C.

reactant | 3-aminopyridine | 2.82 g | NC=1C=NC=CC1 | C5H6N2
reactant | sodium hydroxymethanesulfonate monohydrate | 9.12 g | O.OCS(=O)(=O)[O-].[Na+]
solvent | water | 40 ml | O | H2O
product | sodium 3-pyridylaminomethanesulfonate | 3.71 g | N1=CC(=CC=C1)NCS(=O)(=O)[O-].[Na+] | InChI=1S/C6H8N2O3S.Na/c9-12(10,11)5-8-6-2-1-3-7-4-6;/h1-4,8H,5H2,(H,9,10,11);/q;+1/p-1
